US06992067B2
2,3,4-Triacetoxy-1-{2-[2-(2-aminoethoxy)ethoxy]acetyl}-5-hydroxypentyl acetate (23)
In a hydrogenation apparatus, a suspension of 1.12 g of 2,3,4-triacetoxy-1-{2-[2-(2-azido-ethoxy)ethoxy]acetyl}-5-hydroxypentyl acetate and 1.0 g of Raney-Nickel in 100 ml of ethanol is shaken under an atmosphere of hydrogen for 4 h. The reaction solution is filtered and concentrated. The residue contains 23:

reactant | 2,3,4-triacetoxy-1-{2-[2-(2-azido-ethoxy)ethoxy]acetyl}-5-hydroxypentyl acetate | 1.12 g | C(C)(=O)OC(C(C(C(CO)OC(C)=O)OC(C)=O)OC(C)=O)C(COCCOCCN=[N+]=[N-])=O | C19H29N3O12
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | 1.0 g | [Ni] | Ni
product | 2,3,4-Triacetoxy-1-{2-[2-(2-aminoethoxy)ethoxy]acetyl}-5-hydroxypentyl acetate | C(C)(=O)OC(C(C(C(CO)OC(C)=O)OC(C)=O)OC(C)=O)C(COCCOCCN)=O | C19H31NO12
